US07601870B2
2,6-Dimethyl-4-nitro-phenylamine
Concentrated hydrochloric acid (17.5 mL) was added to N-(2,6-dimethyl-4-nitro-phenyl)-acetamide (5.05 g) and heated to 140° C. for 30 minutes in a sealed microwave process vial. The reaction mixture was neutralized with solid sodium carbonate in water and the precipitated product was collected by filtration and washed with water (100 mL) to furnish 3.93 g (97% yield) of the title compound as a yellow solid. 1H NMR (500 MHz, DMSO-d6): 2.15 (s, 6H), 6.15 (b, 2H), 7.79 (s, 2H).

reactant | hydrochloric acid | 17.5 mL | Cl | ClH
reactant | N-(2,6-dimethyl-4-nitro-phenyl)-acetamide | 5.05 g | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)NC(C)=O | C10H12N2O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 2,6-Dimethyl-4-nitro-phenylamine | 3.93 g, 97% yield | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)N | C8H10N2O2
